US08247431B2
Step 1: Preparation of 3-amino-6-chloro-2-iodo-4-methylpyridine
5-Amino-2-chloro-4-methylpyridine (1.35 g) was dissolved in DMF (20 mL), N-iodosuccinimide (2.59 g) was added and the reaction mixture was stirred at room temperature for 12 hours. Ethyl acetate was added and the organic layer was washed 3× with water, washed with brine, dried over MgSO4 and concentrated in vacuum. The residue was purified by column chromatography (silica 60, hexane/ethyl acetate=3:1, Rf=0.30) to afford 1.38 g of the title compound of the formula

reactant | 5-Amino-2-chloro-4-methylpyridine | 1.35 g | NC=1C(=CC(=NC1)Cl)C | C6H7ClN2
reactant | N-iodosuccinimide | 2.59 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-amino-6-chloro-2-iodo-4-methylpyridine | 1.38 g | NC=1C(=NC(=CC1C)Cl)I | C6H6ClIN2
